data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_225125_0,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])([C:5]([C:2]([N:7]([H:11])[H:12])([H:13])[H:14])=[O:8])[N:6]([H:9])[H:10]>>[C:1]([C:2]([N:7]([H:11])[H:12])([H:13])[H:14])([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[C:5]([N:6]([H:9])[H:10])=[O:8],68.6641875000278
MR_542874_2,[C:1](\[C:2]([C:3]([C:5]([H:18])([H:19])[H:20])([N:7]([H:13])[H:14])[H:10])([O:8][H:12])[H:9])([C:4]([H:15])([H:16])[H:17])=[N:6]/[H:11]>>[C:1]1([C:4]([H:15])([H:16])[H:17])([N:6]([H:11])[H:12])[C:2]([C:3]([C:5]([H:18])([H:19])[H:20])([N:7]([H:13])[H:14])[H:10])([H:9])[O:8]1,38.1469799999951
MR_130182_0,[C:1](/[C:2]([O:5][H:8])=[N:6]\[N:7]=[C:4](\[N:3]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:2]1([O:5][H:8])[C:4]([N:3]([H:9])[H:10])([H:11])[N:7]=[N:6]1)([H:12])([H:13])[H:14],45.85581750000756
MR_279750_0,[C:1]([C:2](/[N:8]=[C:5](\[O:7][H:10])[H:13])([H:11])[H:12])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:6][H:9]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:2]([H:11])([H:12])[N:8]1[C:5]([O:6][H:9])([O:7][H:10])[H:13],68.28329499999072
MR_468226_1,[C:1]([C:3]([O:6][O:5][C:2]([N:4]([H:9])[H:10])=[O:7])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([C:3]([O:7][C:2]1([N:4]([H:9])[H:10])[O:5][O:6]1)=[O:8])([H:11])([H:12])[H:13],51.95386250002059
MR_521589_0,[n:1]1([O:6][H:9])[c:3](=[O:8])[n:2]([H:11])[c:5]([H:12])[c:4]1[O:7][H:10]>>[N:1](=[C:4](/[C:5]1([H:12])[N:2]([H:11])[C:3]1=[O:8])[O:7][H:10])\[O:6][H:9],56.09096999999082
MR_176024_1,[C:1]([C:3](/[C:2]([N:4]([H:9])[H:10])=[N:7]/[H:11])=[C:5](/[O:6][H:8])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3](/[C:2]([N:4]([H:9])[H:10])=[N:7]/[H:11])([C:5](=[O:6])[H:12])[H:8])([H:13])([H:14])[H:15],62.88993250001767
MR_213899_1,[C:1]([C:2]([N:7]([H:12])[H:13])([H:14])[H:15])([C:5]([C:3]([C:4]([H:18])([H:19])[H:20])([H:16])[H:17])=[O:8])([N:6]([H:10])[H:11])[H:9]>>[C:1]([C:3]([C:4]([H:18])([H:19])[H:20])([H:16])[H:17])([C:5]([C:2]([N:7]([H:12])[H:13])([H:14])[H:15])=[O:8])([N:6]([H:10])[H:11])[H:9],56.48253000000096
MR_272999_0,[C:1]1([C:2]([C:4]([H:11])([H:12])[H:13])=[O:5])([O:7][H:8])[C:3]([H:9])([H:10])[O:6]1>>[C:1]12([C:2]([C:4]([H:11])([H:12])[H:13])([O:7][H:8])[O:5]1)[C:3]([H:9])([H:10])[O:6]2,67.51711749999899
MR_21165_0,[C:1]([C:2]([H:10])([H:11])[H:12])([N:3]([H:7])[H:8])([C:4](=[O:5])[H:9])[H:6]>>[C:1]([C:2]([H:10])([H:11])[H:12])([C:4]([N:3]([H:7])[H:8])=[O:5])([H:6])[H:9],71.33545500000714
MR_389546_0,[C:1]([N:2](/[C:3]([O:5][H:8])=[N:6]\[O:4][H:7])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:2]=[C:3](\[O:5][H:8])[N:6]([O:4][H:7])[H:9])([H:10])([H:11])[H:12],38.52536250000284
MR_664903_0,[C:1]([C:5]([C:3]([H:21])([H:22])[H:23])(/[C:8](=[C:7](\[C:4]([C:2]([H:18])([H:19])[H:20])=[O:10])[H:16])[H:17])[H:12])([N:6]([H:14])[H:15])([O:9][H:11])[H:13]>>[C:1](/[C:5]([C:3]([H:21])([H:22])[H:23])=[C:8]([C:7](=[C:4](\[C:2]([H:18])([H:19])[H:20])[O:10][H:12])\[H:16])/[H:17])([N:6]([H:14])[H:15])([O:9][H:11])[H:13],37.03002999999725
MR_447646_0,[C@:1]([C:4]([H:19])([H:20])[H:21])([N:5]([C:3]([H:16])([H:17])[H:18])[N:7]([H:12])[H:13])([C:6]([C:2]([O:8][H:10])([H:14])[H:15])=[O:9])[H:11]>>[C@:1]([C:2]([O:8][H:10])([H:14])[H:15])([C:4]([H:19])([H:20])[H:21])([C:6]([N:5]([C:3]([H:16])([H:17])[H:18])[N:7]([H:12])[H:13])=[O:9])[H:11],66.16799250001662
MR_84676_1,[C:1](/[C:4]([N:3]([N:6]([H:10])[H:11])/[C:8](=[N:9]/[H:14])[H:15])=[C:5](/[C:2]([H:19])([H:20])[H:21])[N:7]([H:12])[H:13])([H:16])([H:17])[H:18]>>[C:1](/[C:4](=[N:3]/[N:6]([H:10])[H:11])[C:5]([C:2]([H:19])([H:20])[H:21])([N:7]([H:12])[H:13])/[C:8](=[N:9]/[H:14])[H:15])([H:16])([H:17])[H:18],70.27246999996223
MR_300731_1,[C:1]([C:6]([C:2]([H:18])([H:19])[H:20])=[C:8]([N:3]([C:4]([N:7]([H:12])[H:13])=[O:9])[N:5]([H:10])[H:11])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6]([C:2]([H:18])([H:19])[H:20])([C:4]([N:7]([H:12])[H:13])=[O:9])/[C:8](=[N:3]/[N:5]([H:10])[H:11])[H:14])([H:15])([H:16])[H:17],61.550220000011535
MR_553123_1,[C:1](/[C:3](=[C:4](/[C:2]([H:15])([H:16])[H:17])[O:8][H:11])[N:5]([H:13])[H:14])([O:6][H:9])([O:7][H:10])[H:12]>>[C:1]1([O:6][H:9])([H:12])[C:3]([N:5]([H:13])[H:14])([O:7][H:10])[C:4]1([C:2]([H:15])([H:16])[H:17])[O:8][H:11],66.50621499998309
MR_651886_2,[C:1]([C:2](=[C:6]([H:15])[H:16])[N:7]=[C:5]([H:13])[H:14])([N:3]([H:10])[H:11])([N:4]([H:9])[H:12])[H:8]>>[C:1]1([N:4]([H:9])[H:12])([H:8])[C:2]([N:3]([H:10])[H:11])([N:7]=[C:5]([H:13])[H:14])[C:6]1([H:15])[H:16],68.25066500000176
MR_167718_0,[C:1](=[C:4](/[C:3]([N:2]([H:10])[H:11])([C:5](=[C:6]([H:15])[H:16])[H:14])[H:12])[H:13])(\[O:7][H:8])[H:9]>>[C:1]([N:2]([H:10])[H:11])(/[C:4](=[C:3](/[C:5](=[C:6]([H:15])[H:16])[H:14])[H:12])[H:13])([O:7][H:8])[H:9],59.15066000000607
MR_565591_1,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[N:3]([N:5]([H:8])[H:9])[N:6]=[O:7])([H:10])([H:11])[H:12]>>[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[O:7]/[N:6]=[N:3]/[N:5]([H:8])[H:9])([H:10])([H:11])[H:12],52.03104500000407
